data/oMe_Silver.jsonl
{"reaction_id": "NR-002_1-c1ccc(C(F)(F)F)cc1_2-C#N","name": "Acid-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(=O)(c1ccc(C(F)(F)F)cc1)CC#N","C(=O)(c1ccc(C(F)(F)F)cc1)CC#N"],"products_smiles": ["C(=O)(c1ccc(C(F)(F)F)cc1)C(C#N)C(O)(CC#N)c1ccc(C(F)(F)F)cc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=CC#N)(O)c1ccc(C(F)(F)F)cc1","rationale": "Acid catalysis protonates the carbonyl oxygen, increasing α-proton acidity and enabling enol formation via resonance stabilization of the resulting cation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH+]=C(c1ccc(C(F)(F)F)cc1)CC#N","rationale": "Protonation of the second carbonyl oxygen enhances its electrophilicity by withdrawing electron density, making it more susceptible to nucleophilic attack."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(c1ccc(C(F)(F)F)cc1)C(C#N)C(O)(CC#N)c1ccc(C(F)(F)F)cc1","rationale": "The nucleophilic enol π-system attacks the activated carbonyl carbon, favored by strong electrophilicity and minimal steric hindrance at the reaction site."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(c1ccc(C(F)(F)F)cc1)C(C#N)C(O)(CC#N)c1ccc(C(F)(F)F)cc1","rationale": "Deprotonation restores the neutral β-hydroxyketone, driven by the stability of the carbonyl and alcohol functional groups under acidic workup."}],"description": "Under acidic conditions, one carbonyl is activated toward enolization, generating an electrophilic partner and a nucleophilic enol. The enol attacks the protonated carbonyl, forming a new C–C bond. Subsequent proton transfers regenerate the carbonyl and yield the β-hydroxyketone product."}
{"reaction_id": "NR-148_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_3-CC_4-C(C)(C)C_5-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_6-c1ccccc1","name": "Mukaiyama Aldol Addition","level": "medium","reactants_smiles": ["C(=C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)CC)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)O[Si](C(C)(C)C)(C(C)(C)C)(C(C)(C)C)","C(=O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(c1ccccc1)"],"products_smiles": ["CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C(=O)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC)C(O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(c1ccccc1)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Si](C(C)(C)C)(C(C)(C)C)(C(C)(C)C))(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(c1ccccc1)","rationale": "The Lewis acid coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon, making it more susceptible to nucleophilic attack by the silyl enol ether."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C(=O)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC)C(O[Si](C(C)(C)C)(C(C)(C)C)(C(C)(C)C))(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(c1ccccc1)","rationale": "The silyl enol ether attacks the activated carbonyl carbon, driven by the strong nucleophilicity of the enol double bond and stabilization of the developing positive charge by the silyl group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C(=O)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(CC)C(O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(c1ccccc1)","rationale": "Proton transfer occurs to replace the silyloxy group with a hydroxyl, favored under acidic conditions and driven by the stability of the neutral β-hydroxy carbonyl product."}],"description": "Under acidic conditions, the Mukaiyama aldol addition proceeds via Lewis acid activation of the carbonyl, enabling nucleophilic attack by the silyl enol ether. Subsequent proton transfer yields the β-hydroxy carbonyl product with high chemoselectivity due to enhanced electrophilicity and stable intermediates."}
